US04704459
In 1 ml of N,N-dimethylformamide was dissolved 100 mg of ethyl 2-[2-(2,4-difluorophenylamino)-5-fluoro-6-(2,4,6-trimethylbenzenesulfonyloxy)nicotinoyl]acetate, and 17 mg of ethanethiol and 28 mg of triethylamine were added thereto, after which the resulting mixture was subjected to reaction at room temperature for 4 hours. Subsequently, to the reaction mixture were added 3 ml of ethyl acetate and 3 ml of water, and the pH thereof was adjusted to 1.0 with 2N hydrochloric acid. The organic layer was separated, washed successively with 2 ml of water and 2 ml of saturated aqueous sodium chloride solution, and then dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure, and the residue thus obtained was purified by a column chromatography [Wako Silica Gel C-200, eluant:benzene-n-hexane (1:2 by volume)] to obtain 50 mg (yield 67.4%) of ethyl 2-[2-(2,4-difluorophenylamino)-6-ethylthio-5-fluoronicotinoyl]acetate. The physical properties of this compound were identical with those of the compound obtained in Example 19.

reactant | ethyl 2-[2-(2,4-difluorophenylamino)-5-fluoro-6-(2,4,6-trimethylbenzenesulfonyloxy)nicotinoyl]acetate | 100 mg | FC1=C(C=CC(=C1)F)NC1=C(C(=O)CC(=O)OCC)C=C(C(=N1)OS(=O)(=O)C1=C(C=C(C=C1C)C)C)F | C25H23F3N2O6S
reactant | ethanethiol | 17 mg | C(C)S | C2H6S
reactant | triethylamine | 28 mg | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | water | 3 ml | O | H2O
solvent | ethyl acetate | 3 ml | C(C)(=O)OCC | C4H8O2
product | ethyl 2-[2-(2,4-difluorophenylamino)-6-ethylthio-5-fluoronicotinoyl]acetate | 50 mg, yield 67.4% | FC1=C(C=CC(=C1)F)NC1=C(C(=O)CC(=O)OCC)C=C(C(=N1)SCC)F | C18H17F3N2O3S
